US07119102B2
To 30 mL of 2,2,2-trifluoroethanol cooled to 0° C. was added sodium metal (0.60 g, 15 mmol), cut fresh and washed in hexanes, in small portions. The mixture was allowed to warm up to room temperature and let stir until all of the sodium metal had reacted. To the mixture was added 3-amino-6-(1,4-dioxa-8-aza-spiro[4.5]dec-8-yl)-4-methanesulfinyl-thieno[2,3-b]pyridine-2-carboxylic acid amide (1.30 g, 3.28 mmol) as a solid in one portion. The mixture was heated to 70° C. for 15 h. The mixture was cooled to room temperature and diluted with H2O. The mixture was washed with CH2Cl2 and the combined organic phase was dried over anhydrous Na2SO4 and concentrated under reduced pressure. The residue was purified by flash silica gel chromatography to provide 0.940 g of 3-amino-6-(1,4-dioxa-8-aza-spiro[4.5]dec-8-yl)-4-(2,2,2-trifluoro-ethoxy)-thieno[2,3-b]pyridine-2-carboxylic acid amide as a white powder.

reactant | 2,2,2-trifluoroethanol | 30 mL | FC(CO)(F)F | C2H3F3O
reactant | sodium | 15 mmol, 0.60 g | [Na] | Na
reactant | 3-amino-6-(1,4-dioxa-8-aza-spiro[4.5]dec-8-yl)-4-methanesulfinyl-thieno[2,3-b]pyridine-2-carboxylic acid amide | 3.28 mmol, 1.30 g | NC1=C(SC2=NC(=CC(=C21)S(=O)C)N2CCC1(OCCO1)CC2)C(=O)N | C16H20N4O4S2
solvent | H2O | O | H2O
product | 3-amino-6-(1,4-dioxa-8-aza-spiro[4.5]dec-8-yl)-4-(2,2,2-trifluoro-ethoxy)-thieno[2,3-b]pyridine-2-carboxylic acid amide | 0.940 g | NC1=C(SC2=NC(=CC(=C21)OCC(F)(F)F)N2CCC1(OCCO1)CC2)C(=O)N | C17H19F3N4O4S
